US04834907
On the other hand, 4-hydroxy-4'-biphenylcarboxylic acid ethyl ester (38.7 g, 0.160 mol) was dissolved in ethanol (200 ml), followed by further adding and dissolving KOH (9 g, 0.160 mol), adding optically active p-toluenesulfonic acid 1-methyl-heptyl ester obtained above (50 g, 0.176 mol), keeping the mixture under reflux for 4 hours, cooling, adding toluene (200 ml) and 6N-HCl (50 ml), washing the toluene layer with a 2N-NaOH aqueous solution, washing with water till the washing water became neutral, and distilling off toluene to obtain as a residue, optically active 4'-(1-methyl-heptyloxy)-4-biphenylcarboxylic acid ethyl ester (38.6 g, 0.109 mol), which was dissolved in ethanol (6 ml), NaOH (5.3 g, 0.130 mol) and water (26 ml), following by heating the solution under reflux for 10 minutes to deposit crystals, cooling, adding 6N-HCl (20 ml), separating crystals by filtering, and recrystallizing from acetic acid to obtain optically active 4'-(1-methyl-heptyloxy)-4-biphenylcarboxylic acid (23.4 g). This product exhibited liquid crystal phases and its phase transition points, C-SC* point, SC*-Ch point and Ch-I point were 160° C., 177° C. and 196° C., respectively.

reactant | 4-hydroxy-4'-biphenylcarboxylic acid ethyl ester | 0.160 mol, 38.7 g | C(C)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C15H14O3
reactant | KOH | 0.160 mol, 9 g | [OH-].[K+]
reactant | p-toluenesulfonic acid 1-methyl-heptyl ester | CC(CCCCCC)OS(=O)(=O)C1=CC=C(C=C1)C | C15H24O3S
reactant | HCl | 50 ml | Cl | ClH
reactant | 4'-(1-methyl-heptyloxy)-4-biphenylcarboxylic acid ethyl ester | 0.109 mol, 38.6 g | C(C)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(CCCCCC)C | C23H30O3
reactant | NaOH | 0.130 mol, 5.3 g | [OH-].[Na+]
reactant | HCl | 20 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 26 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-(1-methyl-heptyloxy)-4-biphenylcarboxylic acid | 23.4 g | CC(CCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O3
